US05939557
Step C: 1-(4-[Thien-3-yl]phenylmethyl)-5-(4-cyanobenzyl)imidazole hydrochloride salt
To a solution of 4-thien-3-yl-benzyl alcohol (253 mg, 1.33 mmol) and diisopropylethylamine (0.464 mL, 2.66 mmol) in dichloromethane (7 mL) at -78° C. was added trifluoromethanesulfonic anhydride (0.224 mL, 1.33 mmol) and the mixture stirred at -78° C. for 1 hour. To this mixture was added a solution of 1-trityl-4-(4-cyanobenzyl)-imidazole (566 mg , 1.33 mmol) in dichloromethane (5 mL). The mixture was allowed to warm to ambient temperature and stirred for 2 hours. The solvent was evaporated in vacuo. The residue was dissolved in methanol (50 mL), heated at reflux for 1 hour, and the solvent evaporated in vacuo. The residue was partitioned between dichloromethane and sat. aq. NaHCO3 solution. The organic layer was dried, (Na2SO4) and the solvent evaporated in vacuo. The residue was chromatographed (silica gel, 2% MeOH in CH2Cl2) and the amine was converted to the HCl salt by treatment with 1.0M HCl in aqueous acetonitrile. Evaporation of the solvent in vacuo afforded the title compound as a white solid.

reactant | 4-thien-3-yl-benzyl alcohol | 1.33 mmol, 253 mg | S1C=C(C=C1)C1=CC=C(CO)C=C1 | C11H10OS
reactant | diisopropylethylamine | 2.66 mmol, 0.464 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 1.33 mmol, 0.224 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-trityl-4-(4-cyanobenzyl)-imidazole | 1.33 mmol, 566 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC1=CC=C(C=C1)C#N | C30H23N3
reactant | dichloromethane | 7 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(4-[Thien-3-yl]phenylmethyl)-5-(4-cyanobenzyl)imidazole hydrochloride salt | Cl.S1C=C(C=C1)C1=CC=C(C=C1)CN1C=NC=C1CC1=CC=C(C=C1)C#N | InChI=1S/C22H17N3S.ClH/c23-12-18-3-1-17(2-4-18)11-22-13-24-16-25(22)14-19-5-7-20(8-6-19)21-9-10-26-15-21;/h1-10,13,15-16H,11,14H2;1H
